US07442830B1
To a solution of tert-butyl [2-({(1R)-3-methyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butyl}amino)-2-oxoethyl]carbamate (2.5 g, 5.9 mmol) in DCM (15 mL) was added 4M HCl in dioxane (5.9 mL). The reaction mixture was allowed to stir for 2 h and concentrated to give 2-amino-N-{(1R)-3-methyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butyl}acetamide which was used in the next step without purification.

reactant | tert-butyl [2-({(1R)-3-methyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butyl}amino)-2-oxoethyl]carbamate | 5.9 mmol, 2.5 g | CC(C[C@@H](B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C)NC(CNC(OC(C)(C)C)=O)=O)C | C22H39BN2O5
reactant | HCl | 4M | Cl | ClH
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 5.9 mL | O1CCOCC1 | C4H8O2
product | 2-amino-N-{(1R)-3-methyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butyl}acetamide | NCC(=O)N[C@@H](CC(C)C)B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C | C17H31BN2O3
